US06518423B1
1-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-2-cyanoguanidine
450 mg of N-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-S-methylisothiourea and 500 mg of cyanamide were heated in 30 ml of N,N-dimethylformamide to 70° C. for 12 hours. Then the reaction mixture was brought back to room temperature and distributed into water and ethyl acetate. The organic layer was extracted and washed with water. After adding 5 g of silica gel, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol/aqueous ammonia) to thereby give 340 mg of the title compound as yellow crystals.

reactant | N-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-S-methylisothiourea | 450 mg | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CNC(SC)=N | C13H13N5S2
reactant | cyanamide | 500 mg | N#CN | CH2N2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-2-cyanoguanidine | 340 mg | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CNC(=NC#N)N | C13H11N7S
